US06942931B2
Synthesis of N-(3-methylphenyl)carbazole
Activated Cu, (4.2 g (65.8 mmol, 1.1 eq)), 12.4 g (89.7 mmol, 1.5 eq) of K2CO3, 10 g (59.8 mmol) of carbazole, 0.47 g (3 mol %) of 18-crown-6 and 13.7 g (62.8 mmol, 1.05 eq) of 3-iodotoluene were added into 100 ml of dried 1,2-dichlorobenzene and reacted at 180° C. for 24 hours. Then, the reaction mixture was filtered to remove un-reacted Cu and salts. The filtrate was distilled under reduced pressure to remove the solvent and purified by silica gel chromatography. The product was obtained as a colorless liquid at 88.3% (15.5 g) yield. 1H-NMR (300 MHz, CDCl3): δ 8.17 (2H, d), 7.51-7.27 (10H, m), 2.51 (3H, s).

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | carbazole | 59.8 mmol, 10 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 18-crown-6 | 0.47 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 3-iodotoluene | 62.8 mmol, 13.7 g, 1.05 eq | IC=1C=C(C=CC1)C | C7H7I
solvent | 1,2-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-(3-methylphenyl)carbazole | CC=1C=C(C=CC1)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H15N
